US06013658
(3E,5R)-5-Amino-2-benzyl-6-(2-naphthyl)hex-3-en-1-ol
3-(tert-Butoxycarbonylaminomethyl)benzoic acid (407 mg) was dissolved in dichloromethane (6 ml) and then converted to the symmetrical anhydride by stirring with N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride (155 mg) for 10 min. A solution of (3E,5R)-5-amino-2-benzyl-6-(2-naphthyl)hex-3-en-1-ol hydrochloride (149 mg) and N,N-diisopropylethylamine (70 μl) in dichloromethane (3 ml) was added to the mixture and then reacted for 20 h at 20° C. The reaction mixture was then concentrated to an oil and redissolved in ethyl acetate (50 ml). The solution was extracted successively with 5% aqueous sodium hydrogen carbonate (100 ml) and with water (2×100 ml). The combined organic phases were dried (sodium sulfate) and concentrated in vacuo to an oil. The oil was dissolved in dichloromethane/trifluoroacetic acid 1:1 (6 ml) and stirred. After 10 min the mixture was concentrated by a stream of nitrogen and the resulting oil was redissolved in acetic acid (1 ml). Then water (40 ml) and acetonitrile (12 ml) were added. The solution of crude product of the title compound was then purified by semipreparative HPLC in five runs on a 25 mm×250 mm column packed with 7μ C-18 silica. The column was preequilibrated with 30% acetonitrile in 0.05M ammonium sulfate, and was adjusted to pH 2.5 with 4M sulfuric acid.

reactant | 3-(tert-Butoxycarbonylaminomethyl)benzoic acid | 407 mg | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | N-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 155 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (3E,5R)-5-amino-2-benzyl-6-(2-naphthyl)hex-3-en-1-ol hydrochloride | 149 mg | Cl.N[C@@H](/C=C/C(CO)CC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1
reactant | N,N-diisopropylethylamine | 70 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (3E,5R)-5-Amino-2-benzyl-6-(2-naphthyl)hex-3-en-1-ol | N[C@@H](/C=C/C(CO)CC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C23H25NO
